US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(1,1-dimethyl-propyl)-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 123 mg of 4-(1,1-dimethyl-propyl)-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 0.59 (t, 3H, J=7.2 Hz), 1.23 (s, 6H), 1.61 (q, 2H, J=7.2 Hz), 7.28 (d, 1H, J=2.8 Hz), 7.36 (m, 2H), 7.53 (m, 3H), 7.67-7.74 (m, 3H), 8.84 (m, 2H), 10.14 (s, 1H). MS: m/z 443.9 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | 4-(1,1-dimethyl-propyl)-benzenesulfonyl chloride | 123 mg | CC(CC)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H15ClO2S
product | N-[4-Chloro-2-(pyridine-4-carbonyl)-phenyl]-4-(1,1-dimethyl-propyl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(CC)(C)C)C(=O)C1=CC=NC=C1 | C23H23ClN2O3S
